US08030489B2
To a mixture of methyl N5-[(benzyloxy)carbonyl]-N2-[(1-methyl-1H-indol-2-yl)carbonyl]-L-ornithinate (13.2 g), THF (65 ml), and methanol (65 ml) was added a 1 M aqueous sodium hydroxide solution (60 ml) under ice-cooling, followed by stirring at room temperature for 3 hours. To the reaction mixture was added 1 M hydrochloric acid (60 ml) under ice-cooling, and the solvent was removed by evaporation under reduced pressure. The residue was stirred at room temperature for 14 hours, and the solid precipitated was collected by filtration and washed with water to obtain N5-[(benzyloxy)carbonyl]-N2-[(1-methyl -1H-indol-2-yl)carbonyl]-L-ornithine (11.6 g).

reactant | methyl N5-[(benzyloxy)carbonyl]-N2-[(1-methyl-1H-indol-2-yl)carbonyl]-L-ornithinate | 13.2 g | C(C1=CC=CC=C1)OC(=O)NCCC[C@H](NC(=O)C=1N(C2=CC=CC=C2C1)C)C(=O)OC | C24H27N3O5
reactant | THF | 65 ml | C1CCOC1 | C4H8O
reactant | sodium hydroxide | 1 M, 60 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1 M, 60 ml | Cl | ClH
solvent | methanol | 65 ml | CO | CH4O
product | N5-[(benzyloxy)carbonyl]-N2-[(1-methyl -1H-indol-2-yl)carbonyl]-L-ornithine | 11.6 g | C(C1=CC=CC=C1)OC(=O)NCCC[C@H](NC(=O)C=1N(C2=CC=CC=C2C1)C)C(=O)O | C23H25N3O5
